2170-06-20 10:02:00 Physician Attending Progress Note
Chief Complaint: Hypoglycemic seizure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hypoglycemic seizure
   24 Hour Events:
 MULTI LUMEN - START [**2170-6-19**] 02:40 PM
 LUMBAR PUNCTURE - At [**2170-6-19**] 09:52 PM: 1 whites, normal protein
   and glucose, neg gm stain
   Transfused for low Hct and hypotension.
   Off levophed this am.
   Awake today
   History obtained from Patient
   Allergies:
   Adefovir
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2170-6-20**] 08:20 AM
   Cefipime - [**2170-6-20**] 09:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, LLQ
   Flowsheet Data as of  [**2170-6-20**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 89 (67 - 90) bpm
   BP: 104/53(65) {88/36(51) - 124/66(81)} mmHg
   RR: 19 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (2 - 13)mmHg
   Mixed Venous O2% Sat: 81 - 81
                              Total In:
                                                                  3,187 mL
                                                                  1,813 mL
   PO:
                              390 mL
   TF:
   IVF:
                                                                  2,374 mL
                                                                    899 mL
   Blood products:
                                                                    813 mL
                                                                    523 mL
   Total out:
                                                                    585 mL
                                                                    860 mL
   Urine:
                                                                    585 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,602 mL
                                                                    953 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: all present
   Respiratory / Chest: (Breath Sounds: Rales L base
   Abdominal: Soft, mildly diffusely tender, Bowel sounds present,
   Distended, fluid wave +
   Extremities: 1+ edema
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: AAO, moving all extremities
   Labs / Radiology
   8.7 g/dL
   49 K/uL
   208 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   14 mg/dL
   109 mEq/L
   137 mEq/L
   25.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2170-6-19**]  04:09 PM
                             [**2170-6-20**]  12:17 AM
                             [**2170-6-20**]  05:05 AM
   WBC
   4.5
   6.5
   Hct
   27.3
   24.5
   25.3
   Plt
   42
   67
   49
   Cr
   0.6
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   211
   208
   Other labs: PT / PTT / INR:18.4/39.9/1.7, CK / CKMB /
   Troponin-T:216/4/<0.01, ALT / AST:33/59, Alk Phos / T Bili:158/3.8,
   LDH:175 IU/L
   Assessment and Plan
 ANEMIA, OTHER
 DIABETES MELLITUS (DM), TYPE I
 CIRRHOSIS OF LIVER, OTHER
 HYPOGLYCEMIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Seizures:  likely due to hypoglycemia, d/c all meningitis antibiotics
   if ok with neuro. Does not need MRI/EEG, if ok with neuro.
   Non gap acidosis: likly due to fluid resuscitation
   Hypoglycemia in setting of recent change on insulin:  was taking lantus
   + 70/30. Will need good teaching with interpreter and VNA. [**Last Name (un) 276**]
   consult.
   Altered mental status:  resolved
   HOTN: resolved with fluid and blood resuscitation. D/c abx if cxs neg
   for 48 hrs (had high lactate at admission)
   Resp: stable, incentive spirometry for bibasilar crackles.
   Cirrhosis:  no ascites in the past.  h/o Grade III varices.  Can check
   u/s for evidence of ascites and dopplers to r/o PV thrombosis. Will
   need to get lactulose for encephalopathy
    ST segment changes: Cardiac enzymes neg
   Rest per housestaff note
   ICU Care
   Nutrition: start po
   Glycemic Control:  as above
   Lines:
   Multi Lumen - [**2170-6-19**] 02:40 PM: d/c today
   18 Gauge - [**2170-6-19**] 02:42 PM
   Prophylaxis:
   DVT: (Low platelets)
   Stress ulcer: PPI
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : to floor
   Total time spent:
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 2730**] and housestaff MICU team.
   Reviewed above note with which I agree.  Would add/emphasize: 57 yo man
   with hep B cirrhosis, admitted with seizures and hypoglycemia.  Further
   history revealed that patient was taking both his lantis and 70/30
   insulin.
   O/E:
   Lungs:  CTA
   CV: reg
   Abd:  Soft, distended
   No further hypoglycemia
   A/P
   DM:  Will need better teaching for diabetes.
   HOTN:  [**Month (only) 60**] be been related to hypovolemia and sedation;  Now resolved.
   Cirrhosis;  U/S to assess portal vein and ascites.
   Can call out later today.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 2513**] [**Name8 (MD) 593**], MD
   on:[**2170-6-20**] 12:23 ------

2170-06-21 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -weaned off levophed and did well all day
   -able to eat
   -Neuro: no need for AED
   -BG ~200 during day with reduced dose of NPH
   -no new culture data
   -Abd U/S: No detectable portal flow, in this technically difficult
   study, consistent with thrombotic occlusion vs. extremely low velocity
   flow. Cirrhotic liver with splenomegaly and varices. Cholelithiasis.
   Allergies:
   Adefovir
   Renal Toxicity;
   Last dose of Antibiotics:
   Cefipime - [**2170-6-20**] 07:27 PM
   Vancomycin - [**2170-6-20**] 08:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-6-20**] 01:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-6-21**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 90 (80 - 97) bpm
   BP: 112/65(78) {104/52(65) - 126/75(87)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (2 - 14)mmHg
   Total In:
                                                                  2,757 mL
                                                                     33 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                  1,282 mL
                                                                     33 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,080 mL
                                                                    400 mL
   Urine:
                                                                  2,080 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   30 K/uL
   9.2 g/dL
   199 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   10 mg/dL
   109 mEq/L
   137 mEq/L
   26.3 %
   2.3 K/uL
        [image002.jpg]
                             [**2170-6-19**]  04:09 PM
                             [**2170-6-20**]  12:17 AM
                             [**2170-6-20**]  05:05 AM
                             [**2170-6-20**]  07:19 PM
                             [**2170-6-21**]  03:19 AM
                             [**2170-6-21**]  05:16 AM
   WBC
   4.5
   6.5
   2.2
   2.3
   Hct
   27.3
   24.5
   25.3
   26.0
   25.7
   26.3
   Plt
   42
   67
   49
   31
   30
   Cr
   0.6
   0.7
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   [**Telephone/Fax (3) 9414**]99
   Other labs: PT / PTT / INR:19.2/40.7/1.7, CK / CKMB /
   Troponin-T:216/4/<0.01, ALT / AST:31/59, Alk Phos / T Bili:130/3.2,
   Albumin:1.8 g/dL, LDH:168 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.3
   mg/dL
   Assessment and Plan
   57 yoM w/ a h/o Hep B cirrhosis presents s/p seizure.
   #  Seizure: expect related to hypoglycemia.  Neurology is following. LP
   done and not c/w meningitis
   -continue to monitor glucose
   -seizure precautions
   -HSV PCR pending
   -neuro consult, appreciate recommendations
   # Hypoglycemia: recent admit for hyperglycemia while on 35 units of
   lantus, on 75:25 30 u [**Hospital1 **] now.  This may be the reason for hypoglycemia
   versus sepsis.  Treat possible infection and titrate down insulin to
   NPH 12 units [**Hospital1 **] and RISS.
   -Continue lower dose of NPH until tolerating diet
   -[**Last Name (un) 276**] as outpatient
   #  Altered Mental Status: likely post ictal and received 4 mg Ativan in
   the ambulance en route. MS improved this am.
   -control glucose to avoid further seizures
   -neuro consult
   -continue lactulose as ammonia 75
   -f/u cultures
   #  Hypotension: Lactate elevated, improved w/ fluids.   Able to wean
   pressors.  BP nadir was 80/42 in ER.  No positive cultures.
   -monitor CVP
   -possibly from dehydration versus sepsis
now BP improved
   -hold antihypertensives
   -vanc / cefepime as below, f/u culture data
given need for
   pressors/hypotension overnight
   -Cortisol 9.5, TSH normal recently
   -transfusing 2 u prbc, pm HCT
   #  Pneumonia: likely aspiration in the setting of seizure.  No
   leukocytosis or fever.
   -recent hospitalization, will cover for nosocomial PNA w/ vanc /
   cefepime
pending negative cultures
   -follow up final CXR read. If Cx remain negative can likely d/c
   antibiotics
   #  Cirrhosis:
   -grade III varicies on EGD [**8-4**], gastritis
daily PPI
   -now MS is improved, continue lactulose
   -thombocytopenia is at baseline.
   -restart lasix and nadolol when BP tolerates
   -possible Portal vein thrombosis- ultrasound done this morning.
   # ?arrthythmia: per ER pt w/ complete heart block. reviewed tele
   (unable to print in ER)- patient only had 1 PAC w/ compensatory pause
   and 1 PVC w/ a compensatory pause.
   -tele
   -no complete heart block
   # ST segment changes: ruled out for MI
   FEN: IVFs / replete lytes prn / NPO
   PPX: pneumoboots, hold sc heparin as plts < 50, bowel regimen prn, PPI
   blocker
   ACCESS: PIV's
   CODE STATUS: full
   EMERGENCY CONTACT:
   DISPOSITION: ICU pending resolution of above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2170-6-19**] 02:40 PM
   18 Gauge - [**2170-6-19**] 02:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-06-21 09:40:00 Physician Attending Progress Note
Chief Complaint: seizures
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with cirrhosis admitted with hypoglycemic seizures due to
   insulin medication error at home.
   24 Hour Events:
 ULTRASOUND - At [**2170-6-20**] 08:20 AM - with evidence of increased
   ascites and PVT.
   Allergies:
   Adefovir
   Renal Toxicity;
   Last dose of Antibiotics:
   Vancomycin - [**2170-6-20**] 08:30 PM
   Cefipime - [**2170-6-21**] 09:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2170-6-20**] 01:58 PM
   Other medications:
   neutraphos
   KCl
   SSI
   rifaxamin
   tenofovir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Nausea
   Genitourinary: No(t) Foley
   Neurologic: No(t) Seizure
   Flowsheet Data as of  [**2170-6-21**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 89 (80 - 110) bpm
   BP: 130/81(94) {105/54(67) - 133/81(94)} mmHg
   RR: 21 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (2 - 14)mmHg
   Total In:
                                                                  2,757 mL
                                                                    337 mL
   PO:
                                                                    750 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,282 mL
                                                                     97 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                  2,080 mL
                                                                    400 mL
   Urine:
                                                                  2,080 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    677 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : RLL, Diminished: RLL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   30 K/uL
   199 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   10 mg/dL
   109 mEq/L
   137 mEq/L
   26.3 %
   2.3 K/uL
        [image002.jpg]
                             [**2170-6-19**]  04:09 PM
                             [**2170-6-20**]  12:17 AM
                             [**2170-6-20**]  05:05 AM
                             [**2170-6-20**]  07:19 PM
                             [**2170-6-21**]  03:19 AM
                             [**2170-6-21**]  05:16 AM
   WBC
   4.5
   6.5
   2.2
   2.3
   Hct
   27.3
   24.5
   25.3
   26.0
   25.7
   26.3
   Plt
   42
   67
   49
   31
   30
   Cr
   0.6
   0.7
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   [**Telephone/Fax (3) 9414**]99
   Other labs: PT / PTT / INR:19.2/40.7/1.7, CK / CKMB /
   Troponin-T:216/4/<0.01, ALT / AST:31/59, Alk Phos / T Bili:130/3.2,
   Albumin:1.8 g/dL, LDH:168 IU/L, Ca++:7.4 mg/dL, Mg++:1.6 mg/dL, PO4:1.3
   mg/dL
   Imaging: CXR: retrocardiac opacity
   Assessment and Plan
   Seizures:  Hypoglycemic seizures.  Can d/c antibiotics if CSF cultures
   negative
   Cirrhosis:  Will need paracentesis as per liver team to r/o SBP - will
   let floor team do it as he has bed.
     Nadolol for varices
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2170-6-19**] 02:42 PM
   20 Gauge - [**2170-6-21**] 08:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes